US07915271B2
((4S,5R)-5-(3,5-dichlorophenyl)-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (100 mg, 0.1886 mmol), methyl 4′-methoxy-2-methyl-3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-carboxylate (108 mg, 0.283 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane adduct (46 mg, 0.056 mmol), aqueous sodium carbonate (190 μL, 2M, 0.380 mmol) and 1,4-dioxane (2 mL) were placed in a sealed tube and subjected to microwave irradiation at 130° C. for 30 minutes and then at 135° C. for 15 minutes to complete the reaction. The crude reaction mixture was purified by preparative TLC on SiO2 (eluted sequentially with 30% ethyl acetate in hexanes, 70% dichloromethane in hexanes and then 80% dichloromethane in hexanes) to afford methyl 2″-{[(4S,5R)-5-(3,5-dichlorophenyl)-4-methyl-2-oxo-1,3-oxazolidin-3-yl]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate as a white solid. LCMS calc.=657.13; found=658.46 (M+1)+. 1H NMR signals are doubled because of atropisomerism 1H NMR (CDCl3, 500 MHz), 7.94 (d, J=7 Hz, 1H), 7.87 (d, J=8.5 Hz, 1H), 7.70 (s, 0.5H), 7.65-7.61 (m, 1.5H), 7.47-7.36 (m, 3H), 7.32 (d, J=2 Hz, 0.5H), 7.29-7.23 (m, 1.5H), 7.11 (dd, J=6.3, 2.0 Hz, 1H), 7.08-7.02 (m, 1.5H), 7.00 (dd, J=8.3, 2.0 Hz, 0.5H), 5.41 (d, J=8.5 Hz, 0.5H), 5.16 (d, J=8.0 Hz, 0.5H), 4.91 (d, J=16 Hz, 0.5H), 4.85 (d, J=16.5 Hz, 0.5H), 4.17 (d, J=16 Hz, 0.5H), 3.98-3.90 (m, 3.5H), 3.856, 3.851 (s, 3H), 3.74-3.66 (m, 1H), 2.36, 2.32 (s, 3H), 0.55 (d, J=7 Hz, 1.5H), 0.43 (d, J=6 Hz, 1.5H).

reactant | (4S,5R)-5-(3,5-dichlorophenyl)-3-[2-iodo-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.1886 mmol, 100 mg | ClC=1C=C(C=C(C1)Cl)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)C | C18H13Cl2F3INO2
reactant | methyl 4′-methoxy-2-methyl-3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-carboxylate | 0.283 mmol, 108 mg | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C)B1OC(C(O1)(C)C)(C)C | C22H27BO5
reactant | sodium carbonate | 0.380 mmol, 2M, 190 μL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane | 0.056 mmol, 46 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | methyl 2″-{[(4S,5R)-5-(3,5-dichlorophenyl)-4-methyl-2-oxo-1,3-oxazolidin-3-yl]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | ClC=1C=C(C=C(C1)Cl)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)C | C34H28Cl2F3NO5
